Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Darvon / lisinopril
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx of COPD, OSA on CPAP, current smoker, and HTN 
presenting with increasing shortness of breath, cough, and chest 
tightness similar to prior COPD exacerbations.

Patient was in her USOH until a couple of weeks ago when she 
developed a cold (rhinorrhea, cough, sinus pressure, etc.). She 
reports that at that time she also started to have some 
worsening dyspnea and whezzing. She called her pulmonologist 
(Dr. ___ and was prescribed a short course of prednisone. She 
got slightly better when she again noticed the return of her 
symptoms over the last week. She also noted that her cough which 
is usually dry or productive of clear/white sputum had become 
productive of yellow/green sputum. She also developed worsening 
wheezing and chest tightness. Compounding her issues, she ran 
out of her home nebulizer treatments which she thought had been 
helping to keep her symptoms at bay. Denied fevers, abdominal 
pain, vomiting, diarrhea, constipation, or myalgias. Reports 
mild chills and nausea. She then decided to come into the ___ 
ED for evaluation.  
 
In the ED:  
Initial vital signs were notable for T 98.9, HR 86, BP 142/96, 
RR 40, O2 92% on RA.  

Labs were notable for:  
- WBC 12.9, Hbg 10.6  
- VBG pH 7.39, pCO2 51, O2sat 95  
- Chemistries, renal function wnl, troponin neg x 1 CXR showed a 
subtle increase in opacity at the right lung base, which could 
be due to overlapping structures, but could not exclude definite 
consolidation.  

Patient was given:  
- 500mg IV azithromycin  
- 40mg PO prednisone  
- Duonebs  

The pt triggered in the ED for tachypnea and chest tightness, 
with respiratory rates in the ___. Both the pt's tachypnea and 
symptoms improved after administration of duonebs. She was 
admitted to the medicine service for further management.  

Upon arrival to the floor, the patient was breathing comfortably 
and said that her SOB seemed to have improved after the 
nebulizer treatments in the ED. She was hungry and requested 
dinner. 
 
Regarding the pt's relevant pulmonary history, recent pulmonary 
function tests demonstrate features of moderate obstruction. She 
has an FEV1 of 42% predicted with an FVC of 53% predicted ratio 
62%. She continues to smoke cigarettes daily but is down to 
about one cig every other day.  
 
Past Medical History:
 - DMII  
 - HTN  
 - COPD  
 - Asthma  
 - Anxiety/Depression  
 - Osteoarthritis  
 - IBS  
 - Seasonal allergies  
 - Hx of EtOH use disorder
 - Obesity  
 - OSA  
 - Thyroid mass 
 
Social History:
___
Family History:
- Mother with T2DM 
- Father with T2DM
- Sister with HTN  
- Unknown cancers in grandparents on both sides 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98.1 137 / 85 76 18 96 2L nc   
GENERAL: Pleasant F in NAD. At times w/ some dyspnea while 
speaking during interview 
HEENT: NCAT, MMM 
CARDIAC: Heart sounds distant, RRR, no m/r/g  
LUNGS: Decreased breath sounds throughout, no significant 
wheezing   
ABDOMEN: Obese, soft, NT/ND, BS+
EXTREMITIES: WWP, no c/c/e  
NEUROLOGIC: AAOx3, grossly intact

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: Sitting on edge of bed in NAD
HEENT: NCAT, MMM, R lobe of thyroid enlarged 
CARDIAC: RRR, no m/r/g  
LUNGS: coarse breath sounds b/l, no wheezes, breathing
comfortably on room air
ABDOMEN: obese, soft, NT/ND, BS+
EXTREMITIES: WWP, bilateral 2+ nonpitting edema L>R
NEUROLOGIC: AAOx3, no focal deficits

 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:49PM BLOOD WBC-12.9* RBC-4.36 Hgb-10.6* Hct-36.8 
MCV-84 MCH-24.3* MCHC-28.8* RDW-16.7* RDWSD-51.1* Plt ___
___ 04:49PM BLOOD Neuts-68.6 ___ Monos-7.8 Eos-2.6 
Baso-0.3 Im ___ AbsNeut-8.84* AbsLymp-2.59 AbsMono-1.01* 
AbsEos-0.34 AbsBaso-0.04
___ 04:49PM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-143 K-5.0 
Cl-103 HCO3-29 AnGap-11
___ 04:49PM BLOOD cTropnT-<0.01
___ 04:59PM BLOOD ___ pO2-132* pCO2-51* pH-7.39 
calTCO2-32* Base XS-5
___ 04:59PM BLOOD O2 Sat-95

PERTINENT LABS:
===============
___ 08:31AM BLOOD proBNP-35

IMAGING:
========
___ CXR Portable
IMPRESSION:  
Subtle increase in opacity at the right lung base may be due to 
overlap of 
structures, but underlying consolidation is difficult to 
exclude. Consider 
dedicated PA and lateral views if/when patient able, for better 
evaluation.

___ CXR PA/Lateral
IMPRESSION:  
Cardiomediastinal silhouette is within normal limits.  On the 
prior study, there was suggestion of an opacity at the right 
base; however, on today's study, this is not present.  There is 
mild prominence of the pulmonary interstitial markings 
suggestive of mild pulmonary edema.  No definite consolidation 
or pneumothoraces are seen.

___ LENIs
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity veins. No evidence of medial popliteal fossa (___) 
cyst. 

___ Thyroid Ultrasound
IMPRESSION:
1. Numerous confluent nodules in the right lobe suggest an 
overall stable 
appearance although specific measurements are difficult to 
obtain due to 
differences in scanning technique. 
2. Two left lobe nodules are minimally increased in size 
compared to the prior ultrasound.  No new worrisome nodule is 
identified within the thyroid gland. 

MICRO:
======
___ BCx x2: NGTD

DISCHARGE LABS:
===============
___ 05:30AM BLOOD WBC-16.8* RBC-3.92 Hgb-9.4* Hct-33.1* 
MCV-84 MCH-24.0* MCHC-28.4* RDW-16.9* RDWSD-51.9* Plt ___
___ 05:30AM BLOOD Glucose-157* UreaN-19 Creat-0.8 Na-141 
K-4.6 Cl-102 HCO3-30 AnGap-9*
___ 05:30AM BLOOD Calcium-10.7* Phos-3.5 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of COPD, OSA 
on CPAP, current smoking, and HTN who presented with increasing 
shortness of breath, cough, and chest tightness similar to prior 
COPD exacerbations. 
 
ACUTE ISSUES:  
============== 
#COPD EXACERBATION: 
Ms. ___ presented with dyspnea, cough with changes in 
sputum production, and chest tightness consistent with her prior 
COPD exacerbations. This episode was likely triggered by a 
recent URI and unfortunately exacerbated by her running out of 
her home nebulizer treatments. CXR PA/lateral did not 
demonstrate overlying pneumonia and flu swab was negative. She 
was initiated on a 5 day course of PO prednisone 40mg and 
azithromycin (___), treated with duonebs and albuterol, and 
managed symptomatically for her cough.

#LOWER EXTREMITY EDEMA:
Ms. ___ also endorsed bilateral non-pitting edema, left 
worse than right, for one week. LENIs were negative for DVT or 
popliteal fossa cyst. There were no other signs of volume 
overload on exam, and her BNP was 35. The edema could be an 
amlodipine side effect, though would not expect asymmetry and 
she has been on this medication (at the same dosage) for 
multiple years.

STABLE ISSUES:  
===============  
#THYROID MASS:
Previously noted to be benign per biopsy results at ___, however 
increasing in size per review of OMR. Ms. ___ was due to 
have repeat thyroid U/S roughly 6 months ago, but had yet to 
receive it in the outpatient setting. Therefore the study was 
performed while the patient was admitted. This demonstrated 
"Numerous confluent nodules in the right lobe suggest an overall 
stable appearance although specific measurements are difficult 
to obtain due to differences in scanning technique. Two left 
lobe nodules are minimally increased in size compared to the 
prior ultrasound.  No new worrisome nodule is identified within 
the thyroid gland." Patient to follow up with PCP regarding 
these findings.

#CODE: Full (presumed)  
#CONTACT: ___ (sister) - ___

TRANSITIONAL ISSUES:
=====================
[ ] Requires PCP ___ of thyroid ultrasound findings
[ ] Can consider discontinuing amlodipine to see if lower 
extremity edema resolves.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB/wheeze 
5. Losartan Potassium 100 mg PO DAILY 
6. Sertraline 125 mg PO DAILY 
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN cough/wheezing 
8. ammonium lactate 12 % topical DAILY 
9. BuPROPion XL (Once Daily) 150 mg PO DAILY 
10. diclofenac sodium 1 % topical BID 
11. Gabapentin 300 mg PO TID 
12. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN Cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth Three times per day 
Disp #*45 Capsule Refills:*0 
2.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN Cough 
RX *dextromethorphan-guaifenesin [Adult Cough Formula DM Max] 
200 mg-10 mg/5 mL 5 mL by mouth Every 6 hours as needed Disp #*1 
Bottle Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN cough/wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs IH every 4 
to 6 hours Disp #*1 Inhaler Refills:*0 
4.  Amlodipine 10 mg PO DAILY  
5.  ammonium lactate 12 % topical DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
9.  diclofenac sodium 1 % topical BID  
10.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
11.  Gabapentin 300 mg PO TID  
12.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB/wheeze  
13.  Losartan Potassium 100 mg PO DAILY  
14.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Do Not Crush  
15.  Sertraline 125 mg PO DAILY  
16.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
#Chronic Obstructive Pulmonary Disease Exacerbation

Secondary Diagnosis:
#Thyroid Mass
#Bilateral Lower Extremity Edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital because you were having a cough and 
shortness of breath.

What did you receive in the hospital?
- You were treated for a COPD exacerbation with steroids and 
antibiotics.
- You had an ultrasound of your thyroid which did not show any 
new worrisome nodules.

What should you do once you leave the hospital?
- Please take all of your medications as prescribed and attend 
all of your follow up appointments as scheduled.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___